US04683000
2,3-Dihydro-N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-methyl-1H-indole-7-sulfonamide
To a solution of 2,3-dihydro-2-methyl-1H-indole-7-sulfonamide (1.0 g) and (4-methoxy-6-methylpyrimidin-2-yl)carbamic acid methyl ester (1.0 g) in methylene dichloride (100 ml) was added trimethylaluminum (3.0 ml of a 2.0 M solution in toluene). The mixture was heated at reflux for 18 hours under a nitrogen atmosphere. Work-up was achieved by careful addition of 100 ml of 1N HCl followed by separation of the organic layer. The methylene chloride was dried over MgSO4 and evaporated to dryness. The residue was chromatographed on a silica gel column to give the pure product (0.2 g, m.p. 175°-177° C.).

reactant | 2,3-dihydro-2-methyl-1H-indole-7-sulfonamide | 1.0 g | CC1NC2=C(C=CC=C2C1)S(=O)(=O)N | C9H12N2O2S
reactant | (4-methoxy-6-methylpyrimidin-2-yl)carbamic acid methyl ester | 1.0 g | COC(NC1=NC(=CC(=N1)OC)C)=O | C8H11N3O3
reactant | trimethylaluminum | C[Al](C)C
reactant | HCl | 1N, 100 ml | Cl | ClH
solvent | methylene dichloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,3-Dihydro-N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-methyl-1H-indole-7-sulfonamide | 0.2 g | COC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C=1C=CC=C2CC(NC12)C | C16H19N5O4S
